US08017607B2
A mixture of rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (53 mg, 0.125 mmol), diisopropylethylamine (64.7 mg, 0.50 mmol), dimethylaminopyridine (3 mg, 0.024 mmol, Aldrich) in CH2Cl2 (6 mL) and 6-chloro-nicotinoyl chloride (41.0 mg, 0.232 mmol, Aldrich) was stirred at room temp. for 2 hrs before diluted with EtOAc, washed with aqueous Na2CO3, brine, and concentrated. The residue was purified by flash column to give rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-1-(6-chloro-pyridine-3-carbonyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (58.3 mg, 83%) as a white solid. HRMS (ES+) m/z Calcd for C28H24Cl3F2N3O+H [(M+H)+]: 562.1026; Found: 562.1026

reactant | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 0.125 mmol, 53 mg | ClC=1C(=C(C=CC1)C1NCC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)F | C22H22Cl2F2N2
reactant | diisopropylethylamine | 0.50 mmol, 64.7 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylaminopyridine | 0.024 mmol, 3 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 6-chloro-nicotinoyl chloride | 0.232 mmol, 41.0 mg | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-1-(6-chloro-pyridine-3-carbonyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 58.3 mg, 83% | ClC=1C(=C(C=CC1)C1N(CC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)C=1C=NC(=CC1)Cl)F | C28H24Cl3F2N3O
